US09023840B2
Step 5: 5-{3-(cyanomethyl)-3-[4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-N-[(1S)-1-cyclopropyl-2,2,2-trifluoroethyl]pyrazine-2-carboxamide
A mixture of 5-{3-(cyanomethyl)-3-[4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}pyrazine-2-carboxylic acid (10 mg, 0.02 mmol), (1S)-1-cyclopropyl-2,2,2-trifluoroethanamine HCl salt (6.6 mg, 0.037 mmol), benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (12 mg, 0.027 mmol) and triethylamine (16 μL, 0.11 mmol) in N,N-dimethylformamide (0.3 mL) was stirred at room temperature for 3 h. It was diluted with methanol, purified by RP-HPLC (pH=2) to afford the desired product (2.9 mg) as TFA salt. LCMS (M+H)+: m/z=522.4. 1H NMR (500 MHz, DMSO-d6): δ 12.01 (s, 1H), 8.92 (s, 1H), 8.90 (d, J=9.4 Hz, 1H), 8.69 (d, J=1.1 Hz, 1H), 8.41 (s, 1H), 8.27 (d, J=5.3 Hz, 1H), 8.04 (d, J=1.0 Hz, 1H), 7.65-7.57 (m, 1H), 7.46 (d, J=5.3 Hz, 1H), 7.01 (s, 1H), 4.84 (d, J=9.8 Hz, 2H), 4.58 (d, J=9.8 Hz, 2H), 4.10-3.97 (m, 1H), 3.78 (s, 2H), 1.46-1.33 (m, 1H), 0.73-0.61 (m, 1H), 0.61-0.53 (m, 1H), 0.53-0.44 (m, 1H), 0.27-0.17 (m, 1H).

reactant | 5-{3-(cyanomethyl)-3-[4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}pyrazine-2-carboxylic acid | 0.02 mmol, 10 mg | C(#N)CC1(CN(C1)C=1N=CC(=NC1)C(=O)O)N1N=CC(=C1)C1=C2C(=NC=C1)NC=C2 | C20H16N8O2
reactant | (1S)-1-cyclopropyl-2,2,2-trifluoroethanamine HCl salt | 0.037 mmol, 6.6 mg | Cl.C1(CC1)[C@@H](C(F)(F)F)N
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 0.027 mmol, 12 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | triethylamine | 0.11 mmol, 16 μL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 0.3 mL | CN(C=O)C | C3H7NO
solvent | methanol | CO | CH4O
product | 5-{3-(cyanomethyl)-3-[4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-N-[(1S)-1-cyclopropyl-2,2,2-trifluoroethyl]pyrazine-2-carboxamide | 2.9 mg | C(#N)CC1(CN(C1)C=1N=CC(=NC1)C(=O)N[C@H](C(F)(F)F)C1CC1)N1N=CC(=C1)C1=C2C(=NC=C1)NC=C2 | C25H22F3N9O
